US07601742B2
12.1 Preparation of 3-(3-benzyloxyphenyl)-4-nitro-butyric acid ethyl ester
To a dry round bottom flask was added 2.7 mL of diisopropylamine and 20 mL THF. The mixture was cooled to −78° C. with stirring. A solution of n-BuLi (11.4 mL, 1.6 M) was added dropwise and the resulting solution was stirred for 20 min. EtOAc (1.5 mL) was added slowly to quench and the mixture was stirred for an additional 20 min. 1-Benzyloxy-3-(2-nitrovinyl)benzene (3.4 g, 13 mmol) in 50 mL THF was then added and the solution was stirred for 2 h. The mixture was warmed to r.t., quenched with sat. NH4Cl solution (50 mL), extracted with EtOAc, washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to give 3.2 g of the desired product.

reactant | diisopropylamine | 2.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.6 M, 11.4 mL | [Li]CCCC
reactant | EtOAc | 1.5 mL | CCOC(=O)C | C4H8O2
reactant | 1-Benzyloxy-3-(2-nitrovinyl)benzene | 13 mmol, 3.4 g | C(C1=CC=CC=C1)OC1=CC(=CC=C1)C=C[N+](=O)[O-] | C15H13NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-benzyloxyphenyl)-4-nitro-butyric acid ethyl ester | 3.2 g | C(C)OC(CC(C[N+](=O)[O-])C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C19H21NO5
